US08304419B2
To a solution of 2-[(3-bromo-5-chlorophenyl)oxy]-1-chloro-3-fluoro-4-methylbenzene (9.69 g, 27.7 mmol) and NBS (4.93 g, 27.7 mmol) in carbon tetrachloride (250 ml) was added AIBN (0.227 g, 1.384 mmol) and the mixture was stirred at 80° C. overnight. An additional portion of AIBN (0.227 g, 1.384 mmol) was added and the mixture was stirred for another 4 hours. The mixture was cooled to rt, the solvent was removed and the crude material was purified via silica gel chromatography to give 2-[(3-bromo-5-chlorophenyl)oxy]-4-(bromomethyl)-1-chloro-3-fluorobenzene (5.78 g, 49% yield). 1H NMR (400 MHz, DMSO-d6) δ ppm 7.38-7.67 (m, 3H), 7.10 (s, 1H), 6.98-7.07 (m, 1H), 4.70 (s, 2H)

reactant | 2-[(3-bromo-5-chlorophenyl)oxy]-1-chloro-3-fluoro-4-methylbenzene | 27.7 mmol, 9.69 g | BrC=1C=C(C=C(C1)Cl)OC1=C(C=CC(=C1F)C)Cl | C13H8BrCl2FO
reactant | NBS | 27.7 mmol, 4.93 g | C1CC(=O)N(C1=O)Br | C4H4BrNO2
reactant | AIBN | 1.384 mmol, 0.227 g | CC(C)(C#N)N=NC(C)(C)C#N | C8H12N4
reactant | AIBN | 1.384 mmol, 0.227 g | CC(C)(C#N)N=NC(C)(C)C#N | C8H12N4
solvent | carbon tetrachloride | 250 ml | C(Cl)(Cl)(Cl)Cl | CCl4
product | 2-[(3-bromo-5-chlorophenyl)oxy]-4-(bromomethyl)-1-chloro-3-fluorobenzene | 5.78 g, 49% yield | BrC=1C=C(C=C(C1)Cl)OC1=C(C=CC(=C1F)CBr)Cl | C13H7Br2Cl2FO
